US08802659B2
5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-1H-indole
To a solution of 5-(4-tert-butyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (0.92 g, 2.5 mmol) in THF (10 mL) was added 4 M HCl in dioxane (6 mL, 25 mmol). The mixture was stirred at room temperature for 48 hrs to form white precipitate. This mixture was partitioned between dichloromethane and aqueous sodium bicarbonate, and the organic phase was dried over MgSO4, filtered and concentrated. The crude was purified with a silica gel column eluted with methanol in dichloromethane from 0 to 8% to give precipitate (0.67 g, yield: 99%). ESI-MS: 274.2 (M+H)+.

reactant | 5-(4-tert-butyl-cyclohexyloxy)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.5 mmol, 0.92 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)OC1CCC(CC1)C(C)(C)C | C23H35NO3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 25 mmol, 6 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(trans-4-tert-Butyl-cyclohexyloxy)-2,3-dihydro-1H-indole | 0.67 g, yield: 99% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2CCNC2=CC1 | C18H27NO
